US05300516
Preparation of ethyl 3-methyl-3-methylaminobutanoate
A mixture containing ethyl 3,3-dimethylacrylate (100 g) and methylamine (140 ml of a 33% solution in ethanol) in ethanol (400 ml) was allowed to stand at room temperature for 2 weeks. The mixture was concentrated in vacuo to give an oil which was fractionally distilled in vacuo to give the title compound as a colourless, mobile oil, yield, 95.0 g, b.p. 68°-75°/20 mm.Hg.

reactant | ethyl 3,3-dimethylacrylate | 100 g | CC(=CC(=O)OCC)C | C7H12O2
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl 3-methyl-3-methylaminobutanoate | CC(CC(=O)OCC)(C)NC | C8H17NO2
